US04920116
N-[4-(1,1-Dimethyethyl)phenyl]-4-morpholinepropanamide
In a manner similar to Preparation 1 react 4-(1,1-dimethylethyl)benzenamine with 3-chloropropanoyl chloride followed by morpholine to obtain the title compound.

reactant | 4-(1,1-dimethylethyl)benzenamine | CC(C)(C)C1=CC=C(C=C1)N | C10H15N
reactant | 3-chloropropanoyl chloride | ClCCC(=O)Cl | C3H4Cl2O
reactant | morpholine | N1CCOCC1 | C4H9NO
product | N-[4-(1,1-Dimethyethyl)phenyl]-4-morpholinepropanamide | CC(C)(C)C1=CC=C(C=C1)NC(CCN1CCOCC1)=O | C17H26N2O2
